US06562849B1
5-[4-[6-(4-n-Hexylaminophenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione
A mixture of t-butyl N-[2-amino-5-(4-t-butoxycarbonyl-n-hexylaminophenoxy)phenyl]-N-methylcarbamate (4.10 g), 4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetic acid (2.81 g), diethyl cyanophosphonate (1.63 g), triethylamine (1.01 g) and anhydrous tetrahydrofuran (100 ml) was stirred at room temperature for 28 hours. The reaction mixture was concentrated and partitioned between ethyl acetate and water. The extract was dried over anhydrous sodium sulfate and concentrated. To the residue was added 4N hydrogen chloride in 1,4-dioxane (50 ml) and the mixture was stirred at room temperature for 66 hours. To the reaction mixture was added water and this mixture was neutralized with sodium bicarbonate and extracted with ethyl acetate. The extract was dried over sodium sulfate and concentrated. The residue was chromatographed on a silica gel column using ethyl acetate:n-hexane=3:2 as the eluant to afford the desired compound (2.89 g, mp 177-179° C.).

reactant | t-butyl N-[2-amino-5-(4-t-butoxycarbonyl-n-hexylaminophenoxy)phenyl]-N-methylcarbamate | 4.10 g | NC1=C(C=C(C=C1)OC1=C(C=C(C=C1)C(=O)OC(C)(C)C)NCCCCCC)N(C(OC(C)(C)C)=O)C | C29H43N3O5
reactant | 4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetic acid | 2.81 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)O)C=C1 | C12H11NO5S
reactant | diethyl cyanophosphonate | 1.63 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | triethylamine | 1.01 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5-[4-[6-(4-n-Hexylaminophenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione | 2.89 g | C(CCCCC)NC1=CC=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C1 | C31H34N4O4S
